Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
simvastatin / Tetracyclines
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
PCI s/p DES to LAD ___

attach
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:45PM BLOOD WBC-7.9 RBC-5.12 Hgb-15.0 Hct-43.6 MCV-85 
MCH-29.3 MCHC-34.4 RDW-13.2 RDWSD-40.6 Plt ___
___ 01:45PM BLOOD Neuts-85.7* Lymphs-10.3* Monos-3.1* 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-6.74* AbsLymp-0.81* 
AbsMono-0.24 AbsEos-0.00* AbsBaso-0.03
___ 01:45PM BLOOD ___ PTT-27.6 ___
___ 01:45PM BLOOD Glucose-132* UreaN-22* Creat-0.8 Na-140 
K-4.0 Cl-103 HCO3-22 AnGap-15
___ 06:18AM BLOOD Calcium-9.2 Phos-2.5* Mg-2.0
___ 01:45PM BLOOD Glucose-132* UreaN-22* Creat-0.8 Na-140 
K-4.0 Cl-103 HCO3-22 AnGap-15
___ 01:45PM BLOOD cTropnT-0.11*

PERTINENT LABS
==============
___ 06:45AM BLOOD %HbA1c-8.5* eAG-197*
___ 06:45AM BLOOD Triglyc-79 HDL-39* CHOL/HD-2.4 LDLcalc-39

PERTINENT RESULTS
=================
___ Cath
Findings
• Single vessel coronary artery disease.
• Successful primary PCI for STEMI of the LAD coronary artery.
Recommendations
• ASA 81mg per day.
• Maximize medical therapy
• Ticagrelorl 90 mg BID

___ TTE
LVEF 49%. IMPRESSION: 1) Moderate focal and mild global LV 
systolic dysfunction c/w mid LAD myocardial infarction. 2) Mild 
to moderate mitral regurgitation in setting of mild pulmonary 
hypertension and normal RV systolic function.

DISCHARGE LABS
==============
___ 06:45AM BLOOD WBC-5.5 RBC-4.73 Hgb-13.9 Hct-41.4 MCV-88 
MCH-29.4 MCHC-33.6 RDW-13.2 RDWSD-41.5 Plt ___
___ 06:45AM BLOOD Glucose-115* UreaN-19 Creat-0.8 Na-142 
K-3.9 Cl-103 HCO3-23 AnGap-16
___ 06:45AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.1 Cholest-___ male with past medical history of hypertension, 
hyperlipidemia, type 2 diabetes, who presented with chest pain 
found to have STEMI now status post DES to LAD.

CORONARIES: 100% stenosis in the proximal and mid segments of 
LAD s/p ___: 49%
RHYTHM: SR

TRANSITIONAL ISSUES:
[] Recommend outpatient cardiac rehabilitation per outpatient 
cardiologist
[] Repeat TTE in ___ weeks to assess EF and function
[] Recommend outpatient management for improved glycemic control
[] Repeat lipid panel in 1 month
[] Monitor blood pressure and uptitrate antihypertensive regimen 
as indicated (decreased amlodipine to increase metoprolol and 
losartan)
[] Ensure patient is up-to-date with all preventative health 
screenings and vaccinations

===============
ACTIVE ISSUES:
===============
#STEMI
Patient presented with acute onset left-sided crushing chest 
pain with
nausea and vomiting that initially developed 0700 on ___. He 
presented to ED and was found to have anterolateral ST 
elevations on ECG and trop 0.11 consistent with STEMI. Taken to 
cath lab and found to have 100% occlusion of proximal to mid LAD 
now s/p one DES. Received 80cc of contrast and 672cc for 
post-cath hydration. Patient chest pain free and HD stable with 
no evidence of heart failure on exam except chronic trace ___ 
pitting edema which is chronic and thought to be in setting of 
amlodipine and venous insufficiency. Post PCI TTE demosntrated  
1) Moderate focal and mild global LV systolic dysfunction c/w 
mid LAD
myocardial infarction. 2) Mild to moderate mitral regurgitation 
in setting of mild pulmonary hypertension and normal RV systolic 
function.  EF 49%
Patient discharged on aspirin, ticagrelor a ($5 co-pay), 
rosuvastatin, metoprolol, home amlodipine, home losartan.

#Type 2 Diabetes Mellitus
Last A1c 9.4% (___). Nutrition consulted as inpatient. Home 
oral hypoglycemics were held in the hospital and the patient was 
placed on insulin sliding scale. Will need outpatient up 
titration of diabetes regimen for his glycemic control.

================
CHRONIC ISSUES:
================
#Hypertension
-as above

#Hyperlipidemia
-as above

==================
CORE MEASURES:
==================
# CODE STATUS: Full
# CONTACT: Wife, see ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
3. amLODIPine 10 mg PO DAILY 
4. Rosuvastatin Calcium 20 mg PO QPM 
5. empagliflozin 25 mg oral DAILY 
6. glimepiride 4 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Metoprolol Succinate XL 50 mg PO DAILY  
3.  TiCAGRELOR 90 mg PO BID  
4.  amLODIPine 5 mg PO DAILY  
5.  Rosuvastatin Calcium 40 mg PO QPM  
6.  empagliflozin 25 mg oral DAILY  
7.  glimepiride 4 mg oral DAILY  
8.  Losartan Potassium 100 mg PO DAILY  
9.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
=================
STEMI

Secondary Diagnoses
===================
HTN
HLD
DM2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you in the hospital!

Why was I admitted to the hospital?
-You came to the hospital because you had a heart attack

What happened while I was admitted to the hospital?
- Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries. This was opened 
by placing a tube called a stent in the artery. You were given 
medications to prevent future blockages.  
- It is very important to take your aspirin and clopidogrel 
(also known as Plavix)/ticagrelor (also known as Brilinta) every 
day.  
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack  
- Please do not stop taking either medication without taking to 
your heart doctor.  
-Your lab numbers were closely monitored and you were given 
medications to treat your medical conditions

What should I do after I leave the hospital?
-Please continue taking all of your medications as prescribed, 
details below
-Keep all of your appointments as scheduled 

We wish you the very best! 

Your ___ Care Team
 
Followup Instructions:
___